US04259486
Preparation of 4-(2-methylpropenyl)morpholine
Isobutyraldehyde (19.4 g; 0.27 mol) is added slowly with stirring to morpholine (21.75 g; 0.25 mol). The ensuing reaction is exothermic. On completion of the addition the reaction mixture is stirred and heated at reflux for 5 hours while water (4.1 ml) is being azeotroped out of it. The reaction mixture is then vacuum distilled. A fraction collected at 64°-67° C. and 13 mm Hg weighs 15.6 g and consists of 90% by weight of title product and 10% by weight of morpholine. A second fraction collected at 67°-67.5° C. and 13 mm Hg (lit. 56°-57° C.; 11 mm Hg) weighs 16.2 g (46%) and is shown to be pure title product by nuclear magnetic resonance (nmr) and infrared (ir).

reactant | Isobutyraldehyde | 0.27 mol, 19.4 g | C(C(C)C)=O | C4H8O
reactant | morpholine | 0.25 mol, 21.75 g | N1CCOCC1 | C4H9NO
solvent | water | 4.1 ml | O | H2O
product | 4-(2-methylpropenyl)morpholine | CC(=CN1CCOCC1)C | C8H15NO
